US07759337B2
To a solution of 5-bromo-4-methoxy-N,N-dimethylpyrimidin-2-amine (0.300 g, 1.29 mmol) and triisopropyl borate (0.416 mL, 1.81 mmol) in 7 mL of THF at −70° C. was added butyllithium (1.6 m in hexanes, 1.13 mL, 1.81 mmol) dropwise. The reaction stirred for 30 min at −70° C. and was allowed to warm up. At −20° C. ammonium chloride (sat.) was added. The mixture was extracted with ethyl acetate (3X). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated to give 250 mg of crude material, which was purified by column chromatography (5% MeOH in dichloromethane) to give 157 mg of 2-(dimethylamino)-4-methoxypyrimidin-5-ylboronic acid as a white solid. ES+=198.1 (M+H).

reactant | 5-bromo-4-methoxy-N,N-dimethylpyrimidin-2-amine | 1.29 mmol, 0.300 g | BrC=1C(=NC(=NC1)N(C)C)OC | C7H10BrN3O
reactant | triisopropyl borate | 1.81 mmol, 0.416 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | butyllithium | 1.81 mmol, 1.13 mL | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 2-(dimethylamino)-4-methoxypyrimidin-5-ylboronic acid | 157 mg | CN(C1=NC=C(C(=N1)OC)B(O)O)C | C7H12BN3O3
